US07622495B2
2×500 mg (2×1 equiv) of tryptamine were dissolved under an argon atmosphere in 2×2 ml of absolute ethanol in three different flasks of a Carousel parallel synthesizer. 4-bromo-1-fluoro-2-nitrobenzene (690 mg, 1 equiv) and 2-fluoro-5-nitrobenzonitrile (520 mg, 1 equiv) were added, respectively, in one of the two parallel flasks (A and B) and the obtained mixtures were allowed to react at room temperature under magnetic stirring. The course of the reactions was followed by TLC (dichloromethane as the eluent). Reactions A and B were completed after 8 and 2 hours, respectively. The two mixtures were then diluted with ca. 15 ml of diethyl ether and the resulting precipitates were collected by filtration and washed with additional Et2O. TLC analyses showed in all precipitates residual traces of starting materials, thus each reaction mixture was purified by column chromatography on silica gel (approx. 20 grams). A mixture of petroleum ether/dichloromethane (8:2) was used until the starting nitroaromatic derivatives were eluted; subsequently, the target products were eluted by using dichloromethane. N-(2-nitro-4-bromophenyl)-tryptamine was collected as a red solid in 55% yield and finally N-(2-cyano-4-nitrophenyl)-tryptamine was obtained as a yellow solid in 40% yield.

reactant | tryptamine | 500 mg, 1 equiv | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 4-bromo-1-fluoro-2-nitrobenzene | 690 mg, 1 equiv | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | 2-fluoro-5-nitrobenzonitrile | 520 mg, 1 equiv | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | diethyl ether | ca. 15 ml | C(C)OCC | C4H10O
product | N-(2-cyano-4-nitrophenyl)-tryptamine | 40% yield | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])NCCC1=CNC2=CC=CC=C12 | C17H14N4O2
